US07960569B2
3-(2-tert-Butylphenyl)-1-(phenylsulfonyl)-1H-indole (172.6 mg, 0.443 mmol) was combined with tetrahydrofuran (2.0 mL) and 1 M tetrabutylammonium fluoride solution (2.21 mL) and heated to 100° C. for 20 minutes. The cooled reaction is charged to a silica gel column and purified by eluting with a gradient of ethyl acetate and hexanes to give 3-(2-tert-butylphenyl)-1H-indole (26.8 mg, 26%) as a colorless solid.

reactant | 3-(2-tert-Butylphenyl)-1-(phenylsulfonyl)-1H-indole | 0.443 mmol, 172.6 mg | C(C)(C)(C)C1=C(C=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C24H23NO2S
reactant | tetrabutylammonium fluoride | 1 M, 2.21 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 3-(2-tert-butylphenyl)-1H-indole | 26.8 mg, 26% | C(C)(C)(C)C1=C(C=CC=C1)C1=CNC2=CC=CC=C12 | C18H19N
